US05650533
A solution of ethyl 2-nitro-4-methylsulphonylbenzoate (10.0 g) in methanol was hydrogenated over 5% palladium on charcoal catalyst (1.2 g) at room temperature and atmospheric pressure. The resultant slurry was filtered and the filtrate was evaporated to dryness to give ethyl 2-amino-4-methylsulphonylbenzoate (6.5 g) as a yellow solid NMR (CDC3) 1.4(t,3H) 3.1(s,3H) 4.35(q,2H) 6.1(bs,2H) 7.0(d, 1H) 7.2(s, 1H) 7.95(d, 1H).

reactant | ethyl 2-nitro-4-methylsulphonylbenzoate | 10.0 g | [N+](=O)([O-])C1=C(C(=O)OCC)C=CC(=C1)S(=O)(=O)C | C10H11NO6S
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
product | ethyl 2-amino-4-methylsulphonylbenzoate | 6.5 g | NC1=C(C(=O)OCC)C=CC(=C1)S(=O)(=O)C | C10H13NO4S
